US05322852
d) N-BOC-4-[(tetrahydropyran-2-yl)oxy]piperidine
With stirring, 8.16 ml (0.09 mol) of 3,4-dihydro-2H-pyran and 1.5 g (0.006 mol) of pyridinium-(toluene-4-sulfonate) are added to a solution of 12.08 g (0.06 mol) of N-BOC-4-hydroxypiperidine (cf. EP 0 278 621) in 300 ml of methylene chloride. The reaction mixture is stirred for 2.5 hours at room temperature, then washed with 2×50 ml of brine:water (1:1) mixture, dried over sodium sulfate and concentrated under vacuum, giving the title compound in the form of a colourless oil; Rf =0.58 (silica gel/ethyl acetate:hexane (2:1), which gradually solidifies in crystalline form at 0° C.

reactant | 3,4-dihydro-2H-pyran | 0.09 mol, 8.16 ml | O1CCCC=C1 | C5H8O
reactant | pyridinium-(toluene-4-sulfonate) | 0.006 mol, 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | N-BOC-4-hydroxypiperidine | 0.06 mol, 12.08 g | C(=O)(OC(C)(C)C)N1CCC(CC1)O | C10H19NO3
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | N-BOC-4-[(tetrahydropyran-2-yl)oxy]piperidine | C(=O)(OC(C)(C)C)N1CCC(CC1)OC1OCCCC1 | C15H27NO4
